US06359145B1
A mixture of methyl 1-[(2S,3R)-2-hydroxy-5-(1-naphthyl)-3-pentyl]imidazole-4-carboxylate (obtained in Example 23(7))(25 mg) and methylamine (40% in water; 1 ml) in tetrahydrofuran (3 ml) was heated in a steel sealed tube at 120° C. overnight. The mixture was taken up in dichloromethane, washed with water, dried, and evaporated. The residue was purified by column chromatography on silica gel, eluting with a mixture of dichloromethane and methanol (30:1) to give a white powder of N-methyl-1-[(2S,3R)-2-hydroxy-5-(1-naphthyl)-3-pentyl]imidazole-4-carboxamide (18.6 mg).

reactant | methyl 1-[(2S,3R)-2-hydroxy-5-(1-naphthyl)-3-pentyl]imidazole-4-carboxylate | 25 mg | O[C@@H](C)[C@@H](CCC1=CC=CC2=CC=CC=C12)N1C=NC(=C1)C(=O)OC | C20H22N2O3
reactant | methylamine | 1 ml | CN | CH5N
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-methyl-1-[(2S,3R)-2-hydroxy-5-(1-naphthyl)-3-pentyl]imidazole-4-carboxamide | 18.6 mg | CNC(=O)C=1N=CN(C1)[C@@H]([C@H](C)O)CCC1=CC=CC2=CC=CC=C12 | C20H23N3O2
